US07662771B2
Add tetrakis(triphenylphosphine)palladium(0) (500 mg) to a degassed suspension of 4-bromo-1H-imidazole (5.0 g, 34 mmol) and 2-isopropoxyphenyl boronic acid (9.19 g, 51 mmol) in dioxane (250 mL) and 2 M sodium carbonate solution (10.81 g, 102 mmol) at room temperature under nitrogen and heat the mixture at reflux for 21 hours. Remove the solvent under reduced pressure, dilute the residue with ethyl acetate (500 mL) and filter through a plug of Celite. Dry the filtrate over sodium sulfate, treat with silica gel (20 g) and remove the solvent under reduced pressure. Purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate, to afford crude 4-(2-isopropoxyphenyl)-1H-imidazole (5.01 g, 73%) which is used without further purification in the next step.

reactant | 4-bromo-1H-imidazole | 34 mmol, 5.0 g | BrC=1N=CNC1 | C3H3BrN2
reactant | 2-isopropoxyphenyl boronic acid | 51 mmol, 9.19 g | C(C)(C)OC1=C(C=CC=C1)B(O)O | C9H13BO3
reactant | sodium carbonate | 102 mmol, 2 M, 10.81 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-isopropoxyphenyl)-1H-imidazole | 5.01 g, 73% | C(C)(C)OC1=C(C=CC=C1)C=1N=CNC1 | C12H14N2O
